US04612321
In 40 ml of acetonitrile was dissolved 661 mg. of N-methyl thiourea. In the solution was suspended 2.9 g of 2-bromo-1-(5-indanyl)-2-(3-pyridyl)ethanone hydrobromide. To the suspension was added dropwise slowly 1 ml of triethylamine. The mixture was then stirred for 2 hours at refluxing temperature, followed by being left standing for cooling. The solvent was then evaporated off. To the residue was added a saturated aqueous solution of sodium hydrogen carbonate. The mixture was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried and, then, the solvent was evaporated off. Recrystallization was conducted from ethyl acetate-isopropylether afforded 1.8 g (80%) of 4-(5-indanyl)-2-methylamino-5-(3-pyridyl)-1,3-thiazole, m.p. 169°-170° C.

reactant | N-methyl thiourea | CNC(=S)N | C2H6N2S
reactant | 2-bromo-1-(5-indanyl)-2-(3-pyridyl)ethanone hydrobromide | 2.9 g | Br.BrC(C(=O)C=1C=C2CCCC2=CC1)C=1C=NC=CC1
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-(5-indanyl)-2-methylamino-5-(3-pyridyl)-1,3-thiazole | 1.8 g, 80% | C1CCC2=CC(=CC=C12)C=1N=C(SC1C=1C=NC=CC1)NC | C18H17N3S
